US06153609
To a solution of [{3-[4-(tert-butoxycarbonylmethylamino)piperidin-1-yl]-3-oxopropyl}(4-methoxybenzenesulfonyl) amino]cyclohexylacetic acid benzylester (1.89 grams, 2.76 mmol) in ethanol (90 mL) was added 10% palladium on activated carbon (0.32 grams). The mixture was agitated under 3 atmospheres hydrogen in a Parr shaker for 2 hours. The catalyst was removed by filtration through nylon (pore size 0.45 μm) and the solvent was evaporated leaving [{3-[4-(tert-butoxycarbonylmethyl-amino) piperidin-1-yl]-3-oxo-propyl}(4-methoxybenzenesulfonyl)amino]cyclohexylacetic acid as a white foam (1.65 grams, 100%).

reactant | [{3-[4-(tert-butoxycarbonylmethylamino)piperidin-1-yl]-3-oxopropyl}(4-methoxybenzenesulfonyl) amino]cyclohexylacetic acid benzylester | 2.76 mmol, 1.89 grams | C(C1=CC=CC=C1)OC(C(C1CCCCC1)N(S(=O)(=O)C1=CC=C(C=C1)OC)CCC(=O)N1CCC(CC1)NCC(=O)OC(C)(C)C)=O | C36H51N3O8S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 90 mL | C(C)O | C2H6O
catalyst | palladium on activated carbon | 0.32 grams | [Pd] | Pd
product | [{3-[4-(tert-butoxycarbonylmethyl-amino) piperidin-1-yl]-3-oxo-propyl}(4-methoxybenzenesulfonyl)amino]cyclohexylacetic acid | 1.65 grams, 100% | C(C)(C)(C)OC(=O)CNC1CCN(CC1)C(CCN(S(=O)(=O)C1=CC=C(C=C1)OC)C(C(=O)O)C1CCCCC1)=O | C29H45N3O8S
